US08058431B2
7) 2-(6,7-Dimethoxy-1-methyl-2-phenyl-1H-quinazolin-4-ylidenemethyl)-3-methyl-benzothiazol-3-ium iodide
500 mg (1.10 mmol) 6,7-Dimethoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide and 320 mg (1.10 mmol) 2,3-Dimethyl-benzothiazol-3-ium iodide were dissolved in 200 ml dimethylformamide and 445 mg (0.61 ml, 4.40 mmol) triethylamine were added. The solution was stirred for 1 h at 80° C., filtrated and the residue is washed with water and methanol.

reactant | 6,7-Dimethoxy-1-methyl-4-methylsulfanyl-2-phenyl-quinazolin-1-ium iodide | 1.10 mmol, 500 mg | [I-].COC=1C=C2C(=NC(=[N+](C2=CC1OC)C)C1=CC=CC=C1)SC
reactant | 2,3-Dimethyl-benzothiazol-3-ium iodide | 1.10 mmol, 320 mg | [I-].CC=1SC2=C([N+]1C)C=CC=C2
reactant | triethylamine | 4.40 mmol, 0.61 ml, 445 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(6,7-Dimethoxy-1-methyl-2-phenyl-1H-quinazolin-4-ylidenemethyl)-3-methyl-benzothiazol-3-ium iodide | [I-].COC=1C=C2C(N=C(N(C2=CC1OC)C)C1=CC=CC=C1)=CC=1SC2=C([N+]1C)C=CC=C2 | InChI=1S/C26H24N3O2S.HI/c1-28-20-12-8-9-13-24(20)32-25(28)15-19-18-14-22(30-3)23(31-4)16-21(18)29(2)26(27-19)17-10-6-5-7-11-17;/h5-16H,1-4H3;1H/q+1;/p-1
